US04888283
1.09 g of 2,6-bis(methoxymethoxy)benzylamine in 60 ml of anhydrous ethyl ether are treated with 1.92 ml of a 2.25 M solution of hydrogen chloride in anhydrous ethyl ether. A white solid precipitates which after filtering and carefully washing with anhydrous ethyl ether gives 2,6-bis(methoxymethoxy)benzylamine hydrochloride with melting point 151,5°-152° C.; the yield obtained is 95%. I.R. (KBr) 2580 cm-1 (NH3+), 1252 cm-1 (aromatic C--O), 1076 cm-1 (acetalic C--O), 773 cm-1 (phenyl).

reactant | 2,6-bis(methoxymethoxy)benzylamine | 1.09 g | COCOC1=C(CN)C(=CC=C1)OCOC | C11H17NO4
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl ether | 60 ml | C(C)OCC | C4H10O
product | 2,6-bis(methoxymethoxy)benzylamine hydrochloride | Cl.COCOC1=C(CN)C(=CC=C1)OCOC | InChI=1S/C11H17NO4.ClH/c1-13-7-15-10-4-3-5-11(9(10)6-12)16-8-14-2;/h3-5H,6-8,12H2,1-2H3;1H
